US07214824B2
3(c): 2-(4-tert-Butyl-3-methoxyphenoxy)-N-{3-fluoro-4-[(methylsulfonyl)amino]benzyl}acetamide
A mixture of tert butyl (4-tert-butyl-3-methoxyphenoxy)acetate (466 mg, 1.6 mmol), trifluoroacetic acid (2.0 ml), tetrahydrofuran (THF) (3.0 ml) and methylene dichloride (2.0 ml) was stirred for 1 hour at ambient temperature. After being concentrated under reduced pressure, the residue was used for further reaction without purification (460 mg). Then (4-tert-butyl-3-methoxyphenoxy)acetic acid (460 mg, crude), 2-chloro-1,3-dimethylimidazolinium chloride (CDI) (97 mg, 0.6 mmol), triethylamine (0.33 ml) and N-[4-(aminomethyl)-2-fluorophenyl]methanesulfonamide hydrochloride (160 mg, 0.63 mmol) were treated in the same procedure described in Example 2(b) to give 8.1 mg (1.1% yield) of the title compound as a white solid.

reactant | tert butyl (4-tert-butyl-3-methoxyphenoxy)acetate | 1.6 mmol, 466 mg | C(C)(C)(C)C1=C(C=C(OCC(=O)OC(C)(C)C)C=C1)OC | C17H26O4
reactant | trifluoroacetic acid | 2.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | (4-tert-butyl-3-methoxyphenoxy)acetic acid | 460 mg | C(C)(C)(C)C1=C(C=C(OCC(=O)O)C=C1)OC | C13H18O4
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 0.6 mmol, 97 mg | [Cl-].ClC1[NH+](CCN1C)C
reactant | N-[4-(aminomethyl)-2-fluorophenyl]methanesulfonamide hydrochloride | 0.63 mmol, 160 mg | Cl.NCC1=CC(=C(C=C1)NS(=O)(=O)C)F
solvent | triethylamine | 0.33 ml | C(C)N(CC)CC | C6H15N
solvent | methylene dichloride | 2.0 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 3.0 ml | O1CCCC1 | C4H8O
product | 2-(4-tert-Butyl-3-methoxyphenoxy)-N-{3-fluoro-4-[(methylsulfonyl)amino]benzyl}acetamide | 8.1 mg, 1.1% yield | C(C)(C)(C)C1=C(C=C(OCC(=O)NCC2=CC(=C(C=C2)NS(=O)(=O)C)F)C=C1)OC | C21H27FN2O5S
